US04987235
Preparation of 5,6-dimethoxyisoindoline hydrochloride
1.00 g (3.72 mmol) of 2-benzyl-5,6-dimethoxyisoindoline was dissolved in 50 ml of methanol at 40° C., and then 1.24 g (7.44 mmol) of 6N hydrochloric acid and 70 mg of 10% palladium carbon were added thereto. Under a hydrogen gas stream, catalytic reduction was conducted at the same temperature. The solvent was distilled off under reduced pressure, and the crystalline residue was washed with acetone to obtain 758 mg (yield: 94.3%) of the above identified compound as colorless prism crystals.

reactant | 2-benzyl-5,6-dimethoxyisoindoline | 3.72 mmol, 1.00 g | C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)OC)OC | C17H19NO2
reactant | hydrochloric acid | 7.44 mmol, 6N, 1.24 g | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 70 mg | [C].[Pd]
product | 5,6-dimethoxyisoindoline hydrochloride | yield: 94.3% | Cl.COC=1C=C2CNCC2=CC1OC | InChI=1S/C10H13NO2.ClH/c1-12-9-3-7-5-11-6-8(7)4-10(9)13-2;/h3-4,11H,5-6H2,1-2H3;1H
